US06159901
Production of 4-[methyl(phenylmethyl)amino]-6-[3-(trifluoromethyl)phenoxy] picolinic acid (compound No. VI-6)
2-bromo-4-[methyl(phenylmethyl)amino]-6-[3-(trifluoromethyl)phenoxy] pyridine (6.38 g, 0.0146 mol) was suspended in about 300 ml of diethyl ether. While cooling in a dry ice-acetone bath in an argon atmosphere, the obtained suspension was mixed with n-butyl lithium [10 ml (ca. 1.63M hexane solution), 0.0146×1.1 mol], and the obtained suspension was stirred for about 10 minutes. After replacing an interior of the reactor with a carbon dioxide gas, the solution was removed from the bath and stirred at room temperature for about one hour. The obtained reaction solution was mixed with about 30 ml of a 1N aqueous hydrochloric acid solution, distributed in ethyl acetate-water, and then washed with saturated brine. The organic phase separated from the solution was dried with anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 2-bromo-4-[methyl(phenylmethyl)amino]-6-[3-(trifluoromethyl)phenoxy] pyridine | 0.0146 mol, 6.38 g | BrC1=NC(=CC(=C1)N(CC1=CC=CC=C1)C)OC1=CC(=CC=C1)C(F)(F)F | C20H16BrF3N2O
reactant | n-butyl lithium | 1.1 mol, ca. 1.63M, 10 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | about 300 ml | C(C)OCC | C4H10O
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-[methyl(phenylmethyl)amino]-6-[3-(trifluoromethyl)phenoxy] picolinic acid | CN(C1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O)CC1=CC=CC=C1 | C21H17F3N2O3
